US06177440B1
E. Preparation of N-benzyl-2-fluoro-5-methoxyaniline
This procedure was patterned after that of Tietze and Grote, Chem Ber. 126(12), 2733 (1993). A solution of 2.73 g of 2-fluoro-5-methoxyaniline and 2.67 g of benzaldehyde in 48 ml of methanol was treated with 3.43 g of zinc chloride and then cooled in an ice bath. Sodium cyanoborohydride (1.58 g) was added in small poroom temperature ions over 30 minutes and the reaction was stirred for five hours at room temperature. After evaporation of the solvent, the residue was slurried in 40 ml of 1 N sodium hydroxide solution and then extracted twice with ether. The extracts were washed with water and then with brine, dried over magnesium sulfate and concentrated. The residue was recrystallized from hexane to afford 2.61 g and the mother liquors were chromatographed on silica gel using 20:1 hexane/ether to afford another 1.4 g of the subtitle compound (90%). mp. 56-58° C.

reactant | 2-fluoro-5-methoxyaniline | 2.73 g | FC1=C(N)C=C(C=C1)OC | C7H8FNO
reactant | benzaldehyde | 2.67 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium cyanoborohydride | 1.58 g | C(#N)[BH3-].[Na+]
solvent | methanol | 48 ml | CO | CH4O
catalyst | zinc chloride | 3.43 g | [Cl-].[Zn+2].[Cl-]
product | N-benzyl-2-fluoro-5-methoxyaniline | 1.4 g, 90% | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)OC)F | C14H14FNO
